US05374641
Ethyl 4-[2-hydroxy-2-(3-pyridyl)ethyl]-α-methylcinnamate (1.84 g) was dissolved in 60 ml of acetone, followed by dropwise addition of 2.27 g of 2.67M Jones Reagent, and stirred for 30 minutes. After addition of 2 ml of isopropanol, the resulting mixture was concentrated under reduced pressure, followed by addition of water for extraction with ethyl acetate. The organic phase was washed in saturated aqueous sodium and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue obtained was subjected to chromatography on a silica gel column, and from a fraction eluted with chloroform-methanol(98:2 v/v) was obtained 0.77 g of ethyl 4-[2-oxo-2-(3-pyridyl)ethyl]-α-methylcinnamate.

reactant | Ethyl 4-[2-hydroxy-2-(3-pyridyl)ethyl]-α-methylcinnamate | 1.84 g | OC(CC1=CC=C(C=C(C(=O)OCC)C)C=C1)C=1C=NC=CC1 | C19H21NO3
reactant | Jones Reagent | 2.67M, 2.27 g | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | ethyl 4-[2-oxo-2-(3-pyridyl)ethyl]-α-methylcinnamate | 0.77 g | O=C(CC1=CC=C(C=C(C(=O)OCC)C)C=C1)C=1C=NC=CC1 | C19H19NO3
